US05569640
2,2-Dimethyl-5-(3-methyl-3-buten-1-ynyl)-4H-(1,3)benzodioxin-4-one
0.64 g (0.92 mmol) of bistriphenylphosphinepalladium dichloride, 4.4ml (46 mmol) of 3-methyl-3-buten-1-yne and 24ml of triethylamine are added under nitrogen to a solution of 15.0 g (46 mmol) of 2,2-dimethyl-5-trifluoromethylsulfonyloxy-4H(1,3)benzodioxin-4-one in 150 ml of dimethylformamide. The mixture is heated at 115° C. for 0.5 h, a further 6.6 ml of 3-methyl-3-buten-1-yne are then added at this temperature in the course of 1 h and the reaction solution is subsequently stirred for 15 min. After cooling, it is poured into 500 ml of water containing phosphoric acid (pH 3) at 0° C. and extracted with methyl tert-butyl ether, and the combined organic phases are carefully washed with water and saturated sodium chloride solution, dried over sodium sulfate and concentrated. 14 g of a dark oil remain, which is chromatographed on silica gel using n-hexane/ethyl acetate. 7.0 g of colorless crystals are obtained, m.p. 60° C. (cf. Table 1, No. 1.009).

reactant | 3-methyl-3-buten-1-yne | 46 mmol, 4.4ml | CC(C#C)=C | C5H6
reactant | triethylamine | 24ml | C(C)N(CC)CC | C6H15N
reactant | 2,2-dimethyl-5-trifluoromethylsulfonyloxy-4H(1,3)benzodioxin-4-one | 46 mmol, 15.0 g | CC1(OC(C2=C(O1)C=CC=C2OS(=O)(=O)C(F)(F)F)=O)C | C11H9F3O6S
reactant | 3-methyl-3-buten-1-yne | 6.6 ml | CC(C#C)=C | C5H6
reactant | phosphoric acid | pH 3 | P(O)(O)(O)=O | H3O4P
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
solvent | water | 500 ml | O | H2O
product | 2,2-Dimethyl-5-(3-methyl-3-buten-1-ynyl)-4H-(1,3)benzodioxin-4-one | 7.0 g | CC1(OC(C2=C(O1)C=CC=C2C#CC(=C)C)=O)C | C15H14O3
